US06660744B1
Using a procedure similar to that above, (+)-ephedrine hydrochloride (0.061 g, 0.302 mmol) and ethyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate (0.054 g, 0.10 mmol) were combined. Purification by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 11.4-11.9 min) afforded N1-[(1S,2S)-2-hydroxy-1-methyl-2-phenylethyl]-N1-methyl-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide as an off-white solid (0.010 g, 0.015 mmol): RP-HPLC (25 to 100% CH3CN in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) Rt 9.36 min; MS: (M−H)− 656.

reactant | (+)-ephedrine hydrochloride | 0.302 mmol, 0.061 g | C[C@H]([C@@H](C1=CC=CC=C1)O)NC | C10H15NO
reactant | ethyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate | 0.10 mmol, 0.054 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)OCC | C21H17Cl2FN6O4S
product | N1-[(1S,2S)-2-hydroxy-1-methyl-2-phenylethyl]-N1-methyl-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide | 0.015 mmol, 0.010 g | O[C@H]([C@H](C)N(C(CN1N=C(C=2C1=NC=NC2N)C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)=O)C)C2=CC=CC=C2 | C29H26Cl2FN7O4S
